US08729105B2
Preparation of 2-Chloro-4-(3,4-dichloro-phenyl)-5-fluoro-pyrimidine
A mixture of 20 g 2,4-dichloro-5-fluoropyrimidine, 22.86 g 3,4-dichlorophenylboronic acid, 33.11 g potassium carbonate and 6.92 g tetrakis(triphenylphosphine)palladium were in 500 mL THF and 500 mL water was heated to reflux for 4 h. The reaction mixture was cooled to room temperature diluted with water and ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel with dichloromethane to yield 24.640 g (74.13%) of the title compound as white solid, MS 279.1 (M+H)+.

reactant | 2,4-dichloro-5-fluoropyrimidine | 20 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3,4-dichlorophenylboronic acid | 22.86 g | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 33.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 6.92 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 500 mL | O | H2O
product | 2-Chloro-4-(3,4-dichloro-phenyl)-5-fluoro-pyrimidine | 24.640 g, 74.13% | ClC1=NC=C(C(=N1)C1=CC(=C(C=C1)Cl)Cl)F | C10H4Cl3FN2
